US07906677B2
A mixture of 2,3,5,6-tetrafluoroaniline (4.5 g, 27.3 mmol), 4-ethylbromobenzene (5.0 g, 27 mmol), toluene (50 ml), sodium tert-butoxide (4.67 g, 48 mmol), tri-tert-butylphosphin (217 mg, 1.07 mmol) and bis-dibenzylideneacetone-palladium(0) (260 mg, 0.45 mmol) is heated under nitrogen to 85° C. for 15.5 h. The mixture is cooled to room temperature and water (30 ml), concentrated hydrochloric acid (20 ml) and hyflo are added. After stirring for 45 minutes, the mixture is filtered and the organic phase is washed with water three times. The solvent is evaporated in vacuo and the residue is chromatographed on silica using hexane/toluene (9:1 to 3:1) affording N-(2′,3′,5′,6′-tetrafluorophenyl)-4-ethylanilin as a liquid.

reactant | 2,3,5,6-tetrafluoroaniline | 27.3 mmol, 4.5 g | FC1=C(N)C(=C(C=C1F)F)F | C6H3F4N
reactant | 4-ethylbromobenzene | 27 mmol, 5.0 g | C(C)C1=CC=C(C=C1)Br | C8H9Br
reactant | sodium tert-butoxide | 48 mmol, 4.67 g | CC(C)([O-])C.[Na+]
reactant | tri-tert-butylphosphin | 1.07 mmol, 217 mg | C(C)(C)(C)P(C(C)(C)C)C(C)(C)C | C12H27P
reactant | hydrochloric acid | 20 ml | Cl | ClH
solvent | water | 30 ml | O | H2O
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
product | N-(2′,3′,5′,6′-tetrafluorophenyl)-4-ethylanilin | FC1=C(C(=C(C=C1F)F)F)NC1=CC=C(C=C1)CC | C14H11F4N
